data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.201801492.json
{"doi": "10.1002_adsc.201801492", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical three-component 1,2-aminosulfonylation of alkenes with sulfinates and amines to form 2-sulfonylethan-1-amines", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of sulfinate (PhSO2Na) to sulfonyl radical; subsequent anodic oxidation of the benzylic C-radical adduct to a benzylic cation; cathode reduces protons to H2", "key_intermediates": [{"name": "sulfonyl radical A (PhSO2•)", "smiles": "[O]S(=O)c1ccccc1", "role": "reactive"}, {"name": "benzylic C-radical adduct B (after sulfonyl radical addition to alkene)", "smiles": "[CH]([CH2]S(=O)(=O)c1ccccc1)c1ccc(OC)cc1", "role": "reactive"}, {"name": "benzylic cation C (from anodic oxidation of B)", "smiles": "[C+]([CH2]S(=O)(=O)c1ccccc1)c1ccc(OC)cc1", "role": "reactive"}, {"name": "styrene radical cation D (over-oxidation pathway)", "smiles": null, "role": "transient"}, {"name": "vinyl sulfone byproduct 5aa (from -H+ of C)", "smiles": "COc1ccc(/C=C/S(=O)(=O)c2ccccc2)cc1", "role": "off_pathway"}, {"name": "sulfonamide byproduct 6aa (PhNHSO2Ph)", "smiles": "O=S(=O)(Nc1ccccc1)c1ccccc1", "role": "off_pathway"}], "electron_flow": "Anode oxidizes sulfinate to a sulfonyl radical which adds to the alkene giving a benzylic C-radical; this radical is further oxidized at the anode to a benzylic cation that is trapped by the amine nucleophile, while the cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Only trace 4aaa; >95% of 1a and 3a recovered — reaction suppressed, supporting radical pathway"}, {"name": "BHT (2,6-di-tert-butyl-4-methylphenol)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield of 4aaa dropped to 21%, consistent with radical intermediates"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Byproducts 5aa (vinyl sulfone via deprotonation of cation C) and 6aa (PhNHSO2Ph, from sulfonyl radical + amine) arise from high reactivity of intermediates A and B. Use of NH3 or NH3·H2O gave no product (4aan trace). Mechanism supported by CV (Figure S1, SI)."}
